US06562807B2
(R)-3-{4-[1-(4-Cyclohexylphenyl)-3-(3-methoxy-5-trifluoromethylphenyl)ureidomethyl]benzoylamino}-2-hydroxypropionic Acid
(R)-3-{4-[1-(4-Cyclohexylphenyl)-3-(3-methoxy-5-trifluoromethylphenyl)ureidomethyl]benzoyl-amino}-2-hydroxypropionic acid ethyl ester was dissolved in ethanol (15 mL) and sodium hydroxide (2 N, 2 mL) was added. The reaction mixture was stirred at room temperature for 60 min. Then ethanol was removed in vacuo, water (50 mL) was added and pH was adjusted with 4 N hydrochloric acid to acidic reaction. Filtration and washing with water (5×5 mL) and drying in vacuo afforded 460 mg of the title compound as a crystalline solid.

reactant | (R)-3-{4-[1-(4-Cyclohexylphenyl)-3-(3-methoxy-5-trifluoromethylphenyl)ureidomethyl]benzoyl-amino}-2-hydroxypropionic acid ethyl ester | C(C)OC([C@@H](CNC(C1=CC=C(C=C1)C(C1=CC=C(C=C1)C1CCCCC1)NC(=O)NC1=CC(=CC(=C1)C(F)(F)F)OC)=O)O)=O | C34H38F3N3O6
reactant | sodium hydroxide | 2 N, 2 mL | [OH-].[Na+]
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | (R)-3-{4-[1-(4-Cyclohexylphenyl)-3-(3-methoxy-5-trifluoromethylphenyl)ureidomethyl]benzoylamino}-2-hydroxypropionic Acid | 460 mg | C1(CCCCC1)C1=CC=C(C=C1)C(C1=CC=C(C(=O)NC[C@H](C(=O)O)O)C=C1)NC(=O)NC1=CC(=CC(=C1)C(F)(F)F)OC | C32H34F3N3O6
